US07320972B2
Magnesium (0) (400 mg) was suspended in 17 mL of anhydrous diethyl ether, and to the suspension was added 100 μL of 1,2-dibromoethane. 1,3-dibromobenzene (3.8 g, 16.08 mmol) was added at a rate to keep a moderate reflux. After Grignard formation was complete (magnesium consumed and the reaction cooled), 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide (0.34 g, 0.80 mmol in 8 mL of anhydrous diethyl ether) was added drop-wise. The reaction was refluxed for 5 h, cooled to room temperature and poured into a separatory funnel with 20 mL of water. The flask was rinsed with 50 mL of diethyl ether and 3 mL of acetic acid (to dissolve the magnesium salts) and added to the seperatory funnel. The layers were separated and the aqueous layer was collected and concentrated in vacuo. The white pasty solid was dissolved in 15 mL of pyridine and 10 mL of acetic anhydride. After 20 h at room temperate the reaction was poured into 150 mL of water and extracted into dichloromethane (3×150 mL). The organic layers were combine, washed with 1 N hydrochloric acid (3×50 mL), dried over sodium sulfate, filtered, concentrated and purified by column chromatography (12 g silica gel, 5% to 95% ethyl acetate-hexane) to afford (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(3-bromophenyl)-D-glucitol (0.178 g, 0.36 mmol, 45% yield) as a white foam; Rf 0.4 (40% ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.44 (m, 2H) 7.25 (m, 2H), 5.27-5.35 (m, 1H), 5.21 (t, J=9.6 Hz, 1H), 5.03 (t, J=9.7 Hz, 1H), 4.36 (d, J=9.9 Hz, 1H), 4.23-4.32 (m, 1H) 4.08-4.18 (m, 1H) 3.80-3.85 (m, 1H) 2.09 (s, 3H), 2.06 (s, 3H), 1.99 (s, 3H), 1.84 (s, 3H) ppm; MS [M+H]+ 488.4.

reactant | Magnesium (0) | 400 mg | [Mg] | Mg
reactant | 1,2-dibromoethane | 100 μL | BrCCBr | C2H4Br2
reactant | 1,3-dibromobenzene | 16.08 mmol, 3.8 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl bromide | 0.80 mmol, 8 mL, 0.34 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
solvent | diethyl ether | 17 mL | C(C)OCC | C4H10O
solvent | water | 20 mL | O | H2O
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(3-bromophenyl)-D-glucitol | 0.36 mmol, 0.178 g, 45% yield | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)Br | C20H23BrO9
